US09315491B2
4-(5-Methylsulfanyl-2,6-di-pyridin-3-yl-pyrimidin-4-yl)-morpholine
A mixture of 4-(2,6-dichloro-5-methylsulfanyl-pyrimidin-4-yl)-morpholine (200 mg, 0.717 mmol.), 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (323 mg, 1.577 mmol, 2.2 eq), (PPh3)4Pd (165 mg, 0.2 mmol.), 2M Na2CO3 (2.1 ml, 4.302 mmol, 6.0 eq.) and dioxane (20 ml) was added to a reaction vessel which was then flushed with argon. The reaction mixture was stirred at 90° C. for 16 hrs, and then dried. The solvent was removed by evaporation. The mixture was partitioned between EA and water. The organic layer was collected, washed with brine, dried over MgSO4, filtered and evaporated in vacuo. The resulting residue was purified using flash chromatography on silica gel (Hexane/EtOAc 2:3, few Et3N), recrystallized by (Hexane/EtOAc) to give a pale yellow solid 57.8 mg (22.1%).

reactant | 4-(2,6-dichloro-5-methylsulfanyl-pyrimidin-4-yl)-morpholine | 0.717 mmol, 200 mg | ClC1=NC(=C(C(=N1)N1CCOCC1)SC)Cl | C9H11Cl2N3OS
reactant | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 1.577 mmol, 323 mg, 2.2 eq | CC1(OB(OC1(C)C)C=1C=NC=CC1)C | C11H16BNO2
reactant | Na2CO3 | 4.302 mmol, 2M, 2.1 ml, 6.0 eq. | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | (PPh3)4Pd | 0.2 mmol, 165 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 4-(5-Methylsulfanyl-2,6-di-pyridin-3-yl-pyrimidin-4-yl)-morpholine | 57.8 mg, 22.1% | CSC=1C(=NC(=NC1C=1C=NC=CC1)C=1C=NC=CC1)N1CCOCC1 | C19H19N5OS
